US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (0.57 g) is alkylated using 4-bromomethyl-2-fluoro-1-methoxy-benzene (0.5 g; 2.28 mmol) and K2CO3 (0.9 g; 6.52 mmol) at RT for 18 h. After aqueous work-up the crude material is de-acetylated in hydrochloric acid (20 ml; 6 N) at reflux. After aqueous work-up 5-amino-1-(3-fluoro-4-methoxy-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (0.68 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 0.57 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 4-bromomethyl-2-fluoro-1-methoxy-benzene | 2.28 mmol, 0.5 g | BrCC1=CC(=C(C=C1)OC)F | C8H8BrFO
reactant | K2CO3 | 6.52 mmol, 0.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | hydrochloric acid | 6 N, 20 ml | Cl | ClH
product | 5-amino-1-(3-fluoro-4-methoxy-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 0.68 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC1=CC(=C(C=C1)OC)F)=O)(C)C | C18H18FN3O4
